US05455258
Methyl 2(R)-[[4-methoxybenzenesulfonyl](3-picolyl )amino]- 3-methylbutanoate hydrochloride (7164 g, 16.7 mol) is added to a solution of water (27 L) and concentrated hydrochloric acid (9 L), and heated to 120° C. for 3 days. After cooling down to room temperature, charcoal (350 g) is added, stirring is continued for 45 minutes, the reaction is filtered, and the solvent is evaporated. The crude solid is re-dissolved in methanol (7.1 L) and ethyl acetate (73 L), and cooled to 3° C. for 2 hours. The precipitated product is collected by filtration to give 2(R)-[[4-methoxybenzenesulfonyl](3-picolyl)amino]-3-methylbutanoic acid hydrochloride.

reactant | Methyl 2(R)-[[4-methoxybenzenesulfonyl](3-picolyl )amino]- 3-methylbutanoate hydrochloride | 16.7 mol, 7164 g | Cl.COC1=CC=C(C=C1)S(=O)(=O)N([C@@H](C(=O)OC)C(C)C)CC=1C=NC=CC1
reactant | hydrochloric acid | 9 L | Cl | ClH
reactant | charcoal | 350 g | C | CH4
solvent | water | 27 L | O | H2O
product | 2(R)-[[4-methoxybenzenesulfonyl](3-picolyl)amino]-3-methylbutanoic acid hydrochloride | Cl.COC1=CC=C(C=C1)S(=O)(=O)N([C@@H](C(=O)O)C(C)C)CC=1C=NC=CC1 | InChI=1S/C18H22N2O5S.ClH/c1-13(2)17(18(21)22)20(12-14-5-4-10-19-11-14)26(23,24)16-8-6-15(25-3)7-9-16;/h4-11,13,17H,12H2,1-3H3,(H,21,22);1H/t17-;/m1./s1
